US07402595B2
1-(4-methanesulfonylbenzylamino)hexan-2-ol
A solution (50 ml) of 4-methanesulfonylbenzylamine (5.0 g) and 1,2-epoxyhexane (3.25 g) in methanol was stirred at room temperature for 96 hrs. The reaction-mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate-ethyl acetate:methanol=10:1) to give the title compound (2.9 g).

reactant | 4-methanesulfonylbenzylamine | 50 ml, 5.0 g | CS(=O)(=O)C1=CC=C(CN)C=C1 | C8H11NO2S
reactant | 1,2-epoxyhexane | 3.25 g | O1CC1CCCC | C6H12O
solvent | methanol | CO | CH4O
product | 1-(4-methanesulfonylbenzylamino)hexan-2-ol | 2.9 g | CS(=O)(=O)C1=CC=C(CNCC(CCCC)O)C=C1 | C14H23NO3S
